** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/tr_1um_sanken.sch
.subckt tr_1um_sanken P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
XR1 VDD P15 VDD F_RR w=2.8e-06 l=100e-06
XR2 VDD P14 VDD F_RR w=2.8e-06 l=100e-06
XR3 VDD P13 VDD F_RR w=2.8e-06 l=100e-06
XR4 VDD P12 VDD F_RR w=2.8e-06 l=100e-06
x2 VDD P15 SEL3N VSS INV_X1
x3 VDD SEL3N SEL3P VSS INV_X1
x4 VDD P14 SEL2N VSS INV_X1
x5 VDD SEL2N SEL2P VSS INV_X1
x6 VDD P13 SEL1N VSS INV_X1
x7 VDD SEL1N SEL1P VSS INV_X1
x8 VDD P12 SEL0N VSS INV_X1
x9 VDD SEL0N SEL0P VSS INV_X1
x42 VDD VSS net7 net1 net2 net6 net9 net5 net10 net4 net3 net8 ISHIKAI_INV
x53 VDD PJENF net2 P2 VSS ASW
x54 VDD PJENF net1 P4 VSS ASW
x55 VDD PJENF net5 P6 VSS ASW
x56 VDD PJENF net3 P9 VSS ASW
x57 VDD PJENF net4 P11 VSS ASW
x43 VDD PJENF P1 net9 VSS ASWL
x44 VDD PJENF P3 net7 VSS ASWL
x45 VDD PJENF P5 net6 VSS ASWL
x46 VDD PJENF P7 net8 VSS ASWL
x47 VDD PJENF P10 net10 VSS ASWL
x10 SEL0P SEL1P VDD PJENF SEL3P SEL2P VSS AND4_X1
x11 SEL0N SEL1P VDD PJENE SEL3P SEL2P VSS AND4_X1
x12 SEL0P SEL1N VDD PJEND SEL3P SEL2P VSS AND4_X1
x13 SEL0N SEL1N VDD PJENC SEL3P SEL2P VSS AND4_X1
x14 SEL0P SEL1P VDD PJENB SEL3P SEL2N VSS AND4_X1
x15 SEL0N SEL1P VDD PJENA SEL3P SEL2N VSS AND4_X1
x16 SEL0P SEL1N VDD PJEN9 SEL3P SEL2N VSS AND4_X1
x17 SEL0N SEL1N VDD PJEN8 SEL3P SEL2N VSS AND4_X1
x18 SEL0P SEL1P VDD PJEN7 SEL3N SEL2P VSS AND4_X1
x19 SEL0N SEL1P VDD PJEN6 SEL3N SEL2P VSS AND4_X1
x20 SEL0P SEL1N VDD PJEN5 SEL3N SEL2P VSS AND4_X1
x21 SEL0N SEL1N VDD PJEN4 SEL3N SEL2P VSS AND4_X1
x22 SEL0P SEL1P VDD PJEN3 SEL3N SEL2N VSS AND4_X1
x23 SEL0N SEL1P VDD PJEN2 SEL3N SEL2N VSS AND4_X1
x24 SEL0P SEL1N VDD PJEN1 SEL3N SEL2N VSS AND4_X1
x25 SEL0N SEL1N VDD PJEN0 SEL3N SEL2N VSS AND4_X1
x1 P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS OSS_FRAME
.ends

* expanding   symbol:  TR-1um_5_stdcell/INV_X1.sym # of pins=4
** sym_path: /home/taka/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X1.sym
** sch_path: /home/taka/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X1.sch
.subckt INV_X1 VDD A Y GND
*.PININFO A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u
MM2 Y A GND GND NMOS w=3.4u l=1u
.ends


* expanding   symbol:  ISHIKAI_INV.sym # of pins=12
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ISHIKAI_INV.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ISHIKAI_INV.sch
.subckt ISHIKAI_INV VDD VSS INV_IN_2 INV_OUT_2 INV_OUT_1 INV_IN_3 INV_IN_1 INV_OUT_3 INV_IN_5 INV_OUT_5 INV_OUT_4 INV_IN_4
*.PININFO INV_IN_1:I INV_OUT_1:O VDD:B VSS:B INV_OUT_2:O INV_IN_2:I INV_IN_3:I INV_OUT_3:O INV_IN_4:I INV_OUT_4:O INV_IN_5:I
*+ INV_OUT_5:O
MM1 INV_OUT_1 INV_IN_1 VDD VDD PMOS w=3.4u l=1u
MM2 INV_OUT_1 INV_IN_1 VSS VSS NMOS w=3.4u l=1u
MXM1 INV_OUT_2 INV_IN_2 VDD VDD PMOS w=9u l=1u
MXM2 INV_OUT_2 INV_IN_2 VSS VSS NMOS w=3.4u l=1u
MM3 INV_OUT_3 INV_IN_3 VDD VDD PMOS w=3.4u l=1u
MM4 INV_OUT_3 INV_IN_3 VSS VSS NMOS w=3.4u l=1u
MM5 INV_OUT_4 INV_IN_4 VDD VDD PMOS w=3.4u l=1u m=3
MXM3 INV_OUT_4 INV_IN_4 VSS VSS NMOS w=3.4u l=1u
MXM4 INV_OUT_5 INV_IN_5 VDD VDD PMOS w=3.4u l=1u
MXM5 INV_OUT_5 INV_IN_5 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  ASW.sym # of pins=5
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ASW.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ASW.sch
.subckt ASW VDD E A B VSS
*.PININFO E:I B:B VDD:B VSS:B A:B
MXM1 B net1 A VDD PMOS w=20u l=1u m=15
MXM2 A E B VSS NMOS w=8u l=1u m=15
x1 VDD E net1 VSS INV_X1
.ends


* expanding   symbol:  ASWL.sym # of pins=5
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ASWL.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/ASWL.sch
.subckt ASWL VDD E A B VSS
*.PININFO E:I B:B VDD:B VSS:B A:B
MXM1 B net1 A VDD PMOS w=20u l=1u m=15
MXM2 A E B VSS NMOS w=8u l=1u m=15
x1 VDD E net1 VSS INV_X1
MXM3 B net1 VSS VSS NMOS w=8u l=1u
.ends


* expanding   symbol:  TR-1um_5_stdcell/AND4_X1.sym # of pins=7
** sym_path: /home/taka/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/AND4_X1.sym
** sch_path: /home/taka/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/AND4_X1.sch
.subckt AND4_X1 D C VDD Y A B GND
*.PININFO Y:O A:I B:I VDD:B GND:B C:I D:I
MM7 net1 A net4 GND NMOS w=3.4u l=1u
MM5 net3 C net2 GND NMOS w=3.4u l=1u
MM8 Y net1 GND GND NMOS w=3.4u l=1u
MM10 net2 D GND GND NMOS w=3.4u l=1u
MM6 net4 B net3 GND NMOS w=3.4u l=1u
MM11 net1 A VDD VDD PMOS w=10.2u l=1u
MM1 net1 D VDD VDD PMOS w=10.2u l=1u
MM3 net1 C VDD VDD PMOS w=10.2u l=1u
MM4 Y net1 VDD VDD PMOS w=10.2u l=1u
MM2 net1 B VDD VDD PMOS w=10.2u l=1u
.ends


* expanding   symbol:  OSS_FRAME.sym # of pins=16
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_FRAME.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_FRAME.sch
.subckt OSS_FRAME P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
x1 VDD P1 VSS OSS_ESD_5V_ANA
x2 VDD VSS OSS_ESD_5V_VDD
x3 VDD VSS OSS_ESD_5V_VSS
x4 VDD P2 VSS OSS_ESD_5V_ANA
x5 VDD P3 VSS OSS_ESD_5V_ANA
x6 VDD P4 VSS OSS_ESD_5V_ANA
x7 VDD P5 VSS OSS_ESD_5V_ANA
x8 VDD P6 VSS OSS_ESD_5V_ANA
x9 VDD P7 VSS OSS_ESD_5V_ANA
x10 VDD P15 VSS OSS_ESD_5V_ANA
x11 VDD P14 VSS OSS_ESD_5V_ANA
x12 VDD P13 VSS OSS_ESD_5V_ANA
x13 VDD P12 VSS OSS_ESD_5V_ANA
x14 VDD P11 VSS OSS_ESD_5V_ANA
x15 VDD P10 VSS OSS_ESD_5V_ANA
x16 VDD P9 VSS OSS_ESD_5V_ANA
.ends


* expanding   symbol:  OSS_ESD_5V_ANA.sym # of pins=4
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_ANA.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_ANA.sch
.subckt OSS_ESD_5V_ANA VDD PAD VSS
*.PININFO PAD:B VDD:B VSS:B
MXM1 PAD VDD VDD VDD PMOS w=500u l=2u
MXM2 PAD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VDD.sym # of pins=3
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_VDD.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_VDD.sch
.subckt OSS_ESD_5V_VDD VDD VSS
*.PININFO VSS:B VDD:B VDD:B
MXM5 VSS VDD VDD VDD PMOS w=500u l=2u
MXM6 VDD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VSS.sym # of pins=3
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_VSS.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/Sanken_2026/TR-1um_MPW_Sanken/src/OSS_ESD_5V_VSS.sch
.subckt OSS_ESD_5V_VSS VDD VSS
*.PININFO VSS:B VDD:B VSS:B
MXM3 VSS VDD VDD VDD PMOS w=500u l=2u
MXM4 VDD VSS VSS VSS NMOSE w=500u l=2u
.ends

